US07345178B2
2-(4-nitrophenyl)thiazolo[4,5-c]pyridine (2.57 g, 0.01 mol), iron powder (2.8 g, 0.05 mmol) and NH4Cl (4.32 g, 0.08 mol) were refluxed in CH3OH/H2O (4:1, 200 mL) for 6 h. The mixture was filtered and the filtrate was evaporated in vacuo. The residue was washed with water (30 ml) to give 4-(thiazolo[4,5-c]pyridin-2-yl)benzenamine as a white solid (1.37 g, Yield: 60%).

reactant | 2-(4-nitrophenyl)thiazolo[4,5-c]pyridine | 0.01 mol, 2.57 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(C=NC=C2)N1 | C12H7N3O2S
reactant | NH4Cl | 0.08 mol, 4.32 g | [NH4+].[Cl-]
solvent | CH3OH H2O | 200 mL | CO.O
catalyst | iron | 0.05 mmol, 2.8 g | [Fe] | Fe
product | 4-(thiazolo[4,5-c]pyridin-2-yl)benzenamine | 1.37 g, Yield: 60% | S1C(=NC=2C=NC=CC21)C2=CC=C(C=C2)N | C12H9N3S
